US07659264B2
Step C. 1-tert-butyl 4-methyl 4-{(2E)-2-[(tert-butylsulfinyl)imino]ethl}piperidine-1,4-dicarboxylate
A solution of 1-tert-butyl 4-methyl 4-(2-oxoethyl)piperidine-1,4-dicarboxylate (822 mg, 2.88 mmol), copper(II) sulfate (1.38 g, 8.64 mmol) and 2-methyl-2-propanesulfinamide (354 mg, 3.17 mmol) in dichloroethane (15 mL) was heated at 65° C. for 24 h. The reaction was cooled, filtered and concentrated. The residue was partitioned between saturated aqueous NaHCO3 and dichloromethane, separated, the organic layer dried over MgSO4, and concentrated. The crude product was purified by silica gel chromatography, eluting with a gradient of 0 to 7% methanol:dichloromethane to give the title compound (0.9 g). MS: m/z=389.2 (M+1).

reactant | 1-tert-butyl 4-methyl 4-(2-oxoethyl)piperidine-1,4-dicarboxylate | 2.88 mmol, 822 mg | O=CCC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C14H23NO5
reactant | 2-methyl-2-propanesulfinamide | 3.17 mmol, 354 mg | CC(C)(C)S(=O)N | C4H11NOS
solvent | dichloroethane | 15 mL | ClC(C)Cl | C2H4Cl2
catalyst | copper(II) sulfate | 8.64 mmol, 1.38 g | S(=O)(=O)([O-])[O-].[Cu+2]
product | 1-tert-butyl 4-methyl 4-{(2E)-2-[(tert-butylsulfinyl)imino]ethl}piperidine-1,4-dicarboxylate | 0.9 g | C(C)(C)(C)S(=O)\N=C\CC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C18H32N2O5S
